US08557805B2
5-(3-Ethenyl-4-nitrophenoxy)-2-(methylsulfonyl)pyridine
A mixture of 2-ethenyl-4-fluoro-1-nitrobenzene (9.6 g), 6-(methylsulfonyl)pyridin-3-ol (10.0 g), potassium carbonate (8.3 g), and N,N-dimethylformamide (90 mL) was stirred at 60° C. for 25 hr. The reaction solution was concentrated under reduced pressure, to the obtained residue was added an aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous citric acid solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained pale-yellow oil was crystallized from ethyl acetate-hexane to give the title compound (14.5 g, yield 79%) as pale-yellow crystals.

reactant | 2-ethenyl-4-fluoro-1-nitrobenzene | 9.6 g | C(=C)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H6FNO2
reactant | 6-(methylsulfonyl)pyridin-3-ol | 10.0 g | CS(=O)(=O)C1=CC=C(C=N1)O | C6H7NO3S
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | 5-(3-Ethenyl-4-nitrophenoxy)-2-(methylsulfonyl)pyridine | 14.5 g, yield 79% | C(=C)C=1C=C(OC=2C=CC(=NC2)S(=O)(=O)C)C=CC1[N+](=O)[O-] | C14H12N2O5S
